US08669266B2
(ii) (2S,4S)-4-Hydroxy-pyrrolidine-2-carboxylic acid cyclobutylamide hydrotrifluoroacetate
To a solution of 463 mg (2S,4S)-2-Cyclobutylcarbamoyl-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester in 8 ml dichloromethane were added 1.2 ml TFA. After 5 h stirring at RT the solvents were removed and the residue was codistilled twice with toluene. Yield: 463 mg.

reactant | (2S,4S)-2-Cyclobutylcarbamoyl-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 463 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)O)C(NC1CCC1)=O | C14H24N2O4
reactant | TFA | 1.2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (2S,4S)-4-Hydroxy-pyrrolidine-2-carboxylic acid cyclobutylamide | C1(CCC1)NC(=O)[C@H]1NC[C@H](C1)O | C9H16N2O2
